US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-({methyl[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}sulfonyl)benzamide
To a solution of 3-{[[(3-bromophenyl)methyl](methyl)amino]sulfonyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide (120 mg, 0.179 mmol) in 1,4-dioxane (3 mL) and H2O (1 mL) was added {3-[((3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid (59.9 mg, 0.179 mmol), Pd(Ph3P)4 (10.35 mg, 8.96 μmol), and K2CO3 (74.3 mg, 0.538 mmol) and the reaction was heated in microwave at 130° C. for 15 min. The organic layer was separated, filtered, concentrated, and purified using a Gilson HPLC (with 0.1% TFA). Before the sample was concentrated with a GeneVac EZ-2, TFA (5 drops) was added to each tube (12 mL). The resultant mixture was concentrated, purified using a Gilson HPLC (with 0.1% TFA), concentrated, and basified with amino cartridge to afford 0.0429 g (30%) of the title compound. LC-MS m/z 779 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 1.35-1.45 (m, 6 H) 1.48 (t, J=7.28 Hz, 3 H) 1.82-1.96 (m, 2 H) 2.10 (d, J=12.55 Hz, 2 H) 2.66 (s, 3 H) 3.18 (q, J=7.61 Hz, 3 H) 3.33-3.39 (m, 1 H) 3.42-3.53 (m, 1 H) 3.60-3.79 (m, 6 H) 3.98-4.10 (m, J=8.41, 3.14 Hz, 2 H) 4.27 (s, 2 H) 4.31-4.40 (m, 1 H) 4.41-4.54 (m, 4 H) 4.75 (s, 2 H) 7.31-7.37 (m, 1 H) 7.40-7.65 (m, 5 H) 7.68-7.85 (m, 3 H) 8.05 (d, J=7.28 Hz, 1 H) 8.23 (d, J=7.78 Hz, 1 H) 8.28 (s, 1 H) 8.39 (s, 1 H).

reactant | 3-{[[(3-bromophenyl)methyl](methyl)amino]sulfonyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide | 0.179 mmol, 120 mg | BrC=1C=C(C=CC1)CN(S(=O)(=O)C=1C=C(C(=O)NCC=2C(=C3C(=NC2CC)N(N=C3)CC)NC3CCOCC3)C=CC1)C | C31H37BrN6O4S
reactant | {3-[((3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]phenyl}boronic acid | 0.179 mmol, 59.9 mg | CC(C)(C)OC(=O)N1[C@@H](CN(CC1)CC=1C=C(C=CC1)B(O)O)C | C17H27BN2O4
reactant | K2CO3 | 0.538 mmol, 74.3 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 1 mL | O | H2O
catalyst | Pd(Ph3P)4 | 8.96 μmol, 10.35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-3-({methyl[(3′-{[(3S)-3-methyl-1-piperazinyl]methyl}-3-biphenylyl)methyl]amino}sulfonyl)benzamide | 0.0429 g, 30% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(C2=CC(=CC=C2)S(=O)(=O)N(CC=2C=C(C=CC2)C2=CC(=CC=C2)CN2C[C@@H](NCC2)C)C)=O)CC | C43H54N8O4S
